US04474795
Activity of the enzyme for purification and inhibitor studies was determined by the following radiochromatographic method. An assay incubation mixture of 0.02 ml. containing 70 nM [3H-Tyr1, Leu5 ]-enkephalin (50,000 cpm), an appropriate dilution of the enzyme, and the inhibitor in a final concentration of 125 mM Tris-hydrochloric acid, pH 7.0, was incubated for 15 minutes at 37° before stopping the enzymatic reaction with 0.005 ml. of 1N hydrochloric acid. An aliquot of 0.01 ml. of acidified reaction mixture was spotted onto a Whatman LK 50 silica gel thin-layer chromatography plate along with the appropriate peptide standards. After development of the plate in a solvent composed of isopropanol: ethyl acetate:5% acetic acid (2:2:1), the spots corresponding to Try, Try-Gly, Try-Gly-Gly, and unreacted enkephalin (Try-Gly-Gly-Phe-Leu), as visualized with ninhydrin reaction, were scraped from the plate, and the incorporated radioactivity was counted in a liquid scintillation counter. A comparison of the amount of 3H-labelled Tyr-Gly-Gly formed by uninhibited enzyme with that formed in the presence of various concentrations of an inhibitory compound allows calculation of the I50 value, i.e., the concentration of test compound producing 50% inhibition of the enzyme under the conditions described above.

reactant | hydrochloric acid | 1N | Cl | ClH
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Gly-Gly | C(C(=O)NCC(=O)O)N | C4H8N2O3
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | Tyr-Gly-Gly | C1=CC(=CC=C1C[C@@H](C(=O)NCC(=O)NCC(=O)O)N)O | C13H17N3O5
